US05994353
Butyl 6-[N-(5-chloro-2-hydroxybenzyl)-N-ethylamino]pyridazine-3-carboxylate
The title compound was prepared from butyl 6-(ethylamino)pyridazine-3-carboxylate and 4-chlorophenol using a similar method to that of reference example 3, except 0.4 equivalents of trifluoroacetic acid were added to the reaction mixture.

reactant | butyl 6-(ethylamino)pyridazine-3-carboxylate | C(C)NC1=CC=C(N=N1)C(=O)OCCCC | C11H17N3O2
reactant | 4-chlorophenol | ClC1=CC=C(C=C1)O | C6H5ClO
reactant | trifluoroacetic acid | 0.4 equivalents | FC(C(=O)O)(F)F | C2HF3O2
product | Butyl 6-[N-(5-chloro-2-hydroxybenzyl)-N-ethylamino]pyridazine-3-carboxylate | ClC=1C=CC(=C(CN(CC)C2=CC=C(N=N2)C(=O)OCCCC)C1)O | C18H22ClN3O3
